US09303000B2
Synthesis of (Z)-2-(2-(3-(3-isopropoxy-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)vinyl)-1,3,4-oxadiazole (I-29)
In a 25-mL, 3N round-bottomed flask equipped with nitrogen inlet, and a rubber septum, (Z)-3-(3-(3-isopropoxy-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylohydrazide (0.29 g, 1.0 eq.) was dissolved in THF (7.5 mL, 26V), added trimethylorthoformate (0.095 g, 1.1 eq) and added methanesulphonic acid (0.048 g, 0.5 eq). The Reaction mixture was refluxed at 70° for 2-3 h. The progress of the reaction was followed by TLC analysis on silica gel with 50% EtOAc-hexane as mobile phase. SM Rf=0.40 and Product Rf=0.5. Reaction mixture was poured in to ice water (10 mL) and extracted with EtOAc (3×15 mL). The combined organic layers were washed with Brine solution. (3×15 mL), dried over MgSO4, filtered, and concentrated by rotary evaporation (25° C., 20 mmHg) to afford 0.28 g of crude compound. The crude reaction mixture was purified by column chromatography using silica 60/120 using ethyl acetate:hexane as mobile phase. The column (5×10 cm) was packed in hexane and started eluting in ethyl acetate in gradient manner starting with fraction collection (25-mL fractions) from 35% to 40% ethyl acetate in hexane. Compound started eluting with 35% ethylacetate in hexane. Fraction containing such TLC profile was collected together to obtain pure compound (40 mg), Yield (13.42%). 1H NMR (400 MHz, CDCl3) δ8.46-8.54 (d, 1H), 8 (t, 2H), 7.89 (s, 1H), 7.38-7.42 (d, 1H), 7.28 (d, 1H), 7.01-7.23 (d, 1H), 4.72-4.75 (d, J=11.6 Hz, 1H), 1.59 (d, 6H): LCMS for C16H14F3N5O2 [M+1]+ 365.31 found 365.89 at 3.986 min(LCMS 95.75%).

reactant | (Z)-3-(3-(3-isopropoxy-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylohydrazide | 0.29 g, 1.0 eq. | C(C)(C)OC=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)NN | C15H16F3N5O2
reactant | trimethylorthoformate | 0.095 g, 1.1 eq | COC(OC)OC | C4H10O3
reactant | methanesulphonic acid | 0.048 g, 0.5 eq | CS(=O)(=O)O | CH4O3S
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
product | (Z)-2-(2-(3-(3-isopropoxy-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)vinyl)-1,3,4-oxadiazole | 40 mg | C(C)(C)OC=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C=1OC=NN1 | C16H14F3N5O2
